US07977331B1
A suspension of 1,4-oxazepane hydrochloride (24.80 g, 180 mmol), sodium acetate (29.60 g, 360 mmol) and acetic acid (20.6 ml, 360 mmol) in tetrahydrofuran (400 ml) was stirred for 1 hr, a solution of chloroacetyl chloride (14.3 ml, 180 mmol) in tetrahydrofuran (100 ml) was added dropwise under ice-cooling, and the mixture was stirred overnight at room temperature. To the reaction mixture was added, sodium hydrogen carbonate (65.7 g, 792 μmmol), and the mixture was stirred for 1 hr. The insoluble material was filtered, and the filtrate was concentrated. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:2) to give N-chloroacetyl-1,4-oxazepane (29.8 g, yield 93%).

reactant | 1,4-oxazepane hydrochloride | 180 mmol, 24.80 g | Cl.O1CCNCCC1
reactant | sodium acetate | 360 mmol, 29.60 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 360 mmol, 20.6 ml | C(C)(=O)O | C2H4O2
reactant | chloroacetyl chloride | 180 mmol, 14.3 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydrogen carbonate | 65.7 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-chloroacetyl-1,4-oxazepane | 29.8 g, yield 93% | ClCC(=O)N1CCOCCC1 | C7H12ClNO2
